US08252781B2
Preparation of 2-cyclohexyl-4,4-dimethyl-1-[(2-methylphenyl)carbonyl]-1,2-diazetidin-3-one
2-Cyclohexyl-4,4-dimethyl-1,2-diazetidin-3-one prepared in Process 5 of Example 68 and 2-methylbenzoyl chloride were used for a similar reaction and treatment as Example 96, and the title compound was obtained as a colorless oil.

reactant | 2-Cyclohexyl-4,4-dimethyl-1,2-diazetidin-3-one | C1(CCCCC1)N1NC(C1=O)(C)C | C10H18N2O
reactant | 2-methylbenzoyl chloride | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
product | 2-cyclohexyl-4,4-dimethyl-1-[(2-methylphenyl)carbonyl]-1,2-diazetidin-3-one | C1(CCCCC1)N1N(C(C1=O)(C)C)C(=O)C1=C(C=CC=C1)C | C18H24N2O2
